US07371852B2
The 1,10-dipthalimido-dec-5-ene (1 equiv.) and hydrazine (2 equiv.) are stirred in ethanol at reflux. The reaction mixture is cooled to room temperature and the resulting solid is filtered off. The filtrate is purified via silica gel chromatography to yield 1,10 diamino-dec-5-ene.

reactant | 1,10-dipthalimido-dec-5-ene | 1 equiv. | C1(C=2C(C(N1CCCCC=CCCCCN1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C26H26N2O4
reactant | hydrazine | 2 equiv. | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 1,10 diamino-dec-5-ene | NCCCCC=CCCCCN | C10H22N2
